US05811512
Y. 5-Azido-2-pentyn-1-ol (II-33)
n-Butyl lithium (1.6M in hexane, 18.8 mmol, 11.7 ml) was added dropwise at -78° C. to a solution of 4-azido-1-butyne II-32 (1.28 g, 17.3 mmol) in THF (35 ml). After stirring the resulting green solution for 1 h, paraformaldehyde was added in one portion, the solution was stirred for 5 min, and then warmed to room temperature for 2 h (an orange suspension gradually formed). The reaction mixture was poured into saturated aqueous ammonium chloride (100 ml) and extracted with ether (3×50 ml). The combined extracts were washed with brine (50 ml), dried over sodium sulphate and evaporated to give a yellow oil. This was purified by flash chromatography eluting with pentane/ether 1:1 to afford the title compound II-33 as a pale yellow oil (930 mg, 70.7%): IR (CHCl3) 3600 (m), 3000 (m), 2940 (m), 2880 (m), 2100 (s), 1550 (w), 1380 (m), 1270 (m), 1220 (br), 1140 (m), 1000 (s) cm-1 ; 1H NMR (500 MHz, CDCl3) δ4.24-4.22 (m, 2 H), 3.37 (t, J=6.8 Hz, 2 H), 2.51-2.48 (m, 2 H), 1.84 (t, J=6.0 Hz, 1 H); 13C NMR (62.9 MHz, CDCl3) δ77.42, 70.47, 49.68, 19.45.

reactant | n-Butyl lithium | 18.8 mmol, 1.6M, 11.7 ml | C(CCC)[Li]
reactant | 4-azido-1-butyne | N(=[N+]=[N-])CCC#C | C4H5N3
reactant | paraformaldehyde | C=O | CH2O
reactant | ammonium chloride | 100 ml | [Cl-].[NH4+]
solvent | THF | 35 ml | C1CCOC1 | C4H8O
product | 5-Azido-2-pentyn-1-ol | N(=[N+]=[N-])CCC#CCO | C5H7N3O
